US07161032B2
A solution (5 ml) of 1.44 g (3.3 mmol) of 2-(benzyloxycarbonylamino)propane-1-sulfonyl bromide in tetrahydrofuran was added dropwise to 70% aqueous ethylamine solution (10 ml) under ice-cooling. The reaction was carried out at room temperature for 1 hour, after which the reaction mixture was poured into diluted hydrochloric acid, followed by three runs of extraction with ethyl acetate. The extract solution was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain crude N-ethyl-2-(benzyloxycarbonylamino)propane-1-sulfonamide, and this crude product was used without further purification in the subsequent reaction.

reactant | 2-(benzyloxycarbonylamino)propane-1-sulfonyl bromide | 3.3 mmol, 1.44 g | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)(=O)Br)C | C11H14BrNO4S
reactant | ethylamine | 10 ml | C(C)N | C2H7N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-ethyl-2-(benzyloxycarbonylamino)propane-1-sulfonamide | C(C)NS(=O)(=O)CC(C)NC(=O)OCC1=CC=CC=C1 | C13H20N2O4S
